US05158946
a) Diphenylmethyl 3-(2,5-Dihydro-2-oxofuran-4-yl-thiomethyl) -7β-phenylacetamidoceph-3-em-4-carboxylate
N,N-Diisopropylethylamine (0.52 ml) was added to a stirred solution of diphenylmethyl 3-chloromethyl-7β-phenylacetamidoceph-3-em-4-carboxylate (1.59 g) and 4-mercapto-2(5H)-furanone (400 mg) in dichloromethane (30 ml). The mixture was stirred at room temperature for 2 hours and then washed successively with aqueous citric acid solution, water, sodium bicarbonate solution, water and brine. The solution was dried over magnesium sulphate and evaporated. The title compound (1.64 g) was isolated by column chromatography of the residue using gradient elution (Kieselgel, 1:1 going to 3:7 hexane:ethyl acetate), m.p. 178°-180° C. from ethyl acetate/hexane (Found: C, 64.89; H, 4.61; N, 4.57; S, 10.30: C33H28N2O6S2 requires; C, 64.69; H, 4.61; N, 4.57; S, 10.47). υmax (CHCl3) 3400, 1780, 1745, and 1680 cm-1. δH (CDCl3) 3.36 (1H, d, J 18.3Hz), 3.57 (1H, d, J 18.3Hz), 3.62 (1H, d, J 16.2Hz), 3.70 (1H, d, J 16.2Hz), 3.86 (1H, d, J 12.5Hz), 4.01 (1H, d, J 12.5Hz), 4.71 (2H, s), 4.98 (1H, d, J 4.8Hz), 5.64 (1H, s), 5.88 (1H, dd, J 4.8 and 9.0Hz), 6.06 (1H, d, J 9.0Hz), 6.95 (1H, s), 7.2-7.4 (15H, m).

reactant | N,N-Diisopropylethylamine | 0.52 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | diphenylmethyl 3-chloromethyl-7β-phenylacetamidoceph-3-em-4-carboxylate | 1.59 g | ClCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C29H25ClN2O4S
reactant | 4-mercapto-2(5H)-furanone | 400 mg | SC1=CC(OC1)=O | C4H4O2S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | Diphenylmethyl 3-(2,5-Dihydro-2-oxofuran-4-yl-thiomethyl) -7β-phenylacetamidoceph-3-em-4-carboxylate | 1.64 g | O=C1OCC(=C1)SCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C33H28N2O6S2
